US04435322
55 g. (0.15 moles) of diethyl N-benzyl-N-(2-ethoxycarbonylethyl)-amino-malonate prepared according to Example 1 (a) are dissolved in 400 ml. of ethanol and subjected to hydrogenation in the presence of 22 g. of palladium-on-charcoal. Hydrogenation is carried out at 40° to 50° C. for 3 hours and at room temperature for 5 to 6 hours. After filtering off the catalyst the solution is evaporated in vacuo. 37 g. (89%) of diethyl N-(2-ethoxycarbonylethyl)-amino-malonate are obtained. By crystallization from ethanol saturated with hydogen chloride gas upon addition of ether the corresponding hydrochloride is obtained. Yield. 38.3 g. (82%) of diethyl N-(2-ethoxycarbonylethyl)-amino-malonate hydrochloride, melting at 156° to 157° C. (Ethanol/ether).

reactant | diethyl N-benzyl-N-(2-ethoxycarbonylethyl)-amino-malonate | 0.15 moles | C(C1=CC=CC=C1)N(CCC(=O)OCC)C(C(=O)OCC)C(=O)OCC | C19H27NO6
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | diethyl N-(2-ethoxycarbonylethyl)-amino-malonate | 89% | C(C)OC(=O)CCNC(C(=O)OCC)C(=O)OCC | C12H21NO6
